### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.ProjectiveSpace.Basic

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/ProjectiveSpace/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+#align projectivization.map_injective Projectivization.map_injective
+
+@[simp]
+theorem map_id : map (LinearMap.id : V →ₗ[K] V) (LinearEquiv.refl K V).injective = id := by
+  ext ⟨v⟩
+  rfl
+#align projectivization.map_id Projectivization.map_id
+
+set_option synthInstance.etaExperiment true in -- lean4#2074
+@[simp]
```
Comment (urkud) [inline Mathlib/LinearAlgebra/ProjectiveSpace/Basic.lean:230]:
```suggestion
-- porting note: removed `@[simp]` because of unusable `hg.comp hf` in the LHS
```

**Comment by semorrison** [comment]
bors merge
